Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Sulfa (Sulfonamide Antibiotics) / Lisinopril / Reglan
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with a PMH significant for CLL, 
HTN, HLD, CAD s/p CABG ___, now presenting with confusion and 
urinary frequency.  
Her history was obtained mainly from her son who presented with 
the patient. He reports that she became sick several weeks ago 
with URI symptoms of bronchitis. She was started on prednisone 
taper by her PCP for potential COPD/wheezing and completed a 5 
day course this past ___. However, she had persistent 
wheezing and her PCP decided to continue her on a prolonged 
steroid course with plan for 16 days of treatment. On ___, 
her family noted that she became increasingly confused, unable 
to manage her medications (normally very mentally sharp, 
independent, & manages her and her husbands medications at 
baseline). Her son also noted her to frequently repeaty herself 
with poor short term memory, which was out of character for her. 


On ___ morning, she reported to her son that she had been 
up all night urinating, and did not get any sleep, no complaints 
of dysuria but did describe generalized weakness. Her son 
brought her to her PCP on ___, who noted that pt had likely 
been taking prednisone 80 mg over the past 5 days, rather than 
40 mg. Her PCP discontinued pred, did not send UA in office. 
This morning, son noted patient to be even more confused, 
thought it was ___, didn't know where she was, so he brought 
her to the ED. She denies abdominal pain, N/V, diarrhea or 
constipation. Her cough improved prior to presentation without 
complaints of chest pain or shortness of breath. She had a 
temperature of 99.4F on the day prior to admission.  

In the ED, initial VS were: 97.6 80 194/80 100%. Labs were 
remarkable for: WBC 12.1 with 85.1%Neutophils; Lactate 2.1; 
potassium 5.6 with repeat K 4.8. UA significant for moderate 
leuokocyte esterase, WBC 14, few bacteria. Urine culture and 
blood cultures x2 were sent. CXR PA/lat without acute pulmonary 
process. EKG showed: NSR @ 70 bpm, LBBB. Patient was given 
ceftriaxone 1 g IV.  

VS on floor transfer were: T-97.9 P-67 BP-192/77 RR-18 O2-98%.  
On arrival to the floor, she was A&O x ___ (person, place, ___, not date), able to name president, days of week backwards. 
She stated she felt slightly better, though still not back to 
normal self, unable to articulate any specific complaints other 
than being tired.  

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies chills, night sweats, recent weight loss or gain. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath, or wheezing. Denies chest 
pain, chest pressure, palpitations, or weakness. Denies nausea, 
vomiting, diarrhea, constipation, abdominal pain, or changes in 
bowel habits. Denies rashes or skin changes.  

 
Past Medical History:
1. CLL (___) - Initial asymptomatic leukocytosis (18.6) in  
___ and ___ (22, 60% lymphocytes). Immunophenotyping of  
peripheral blood consistent with CLL (+ for CD5, CD19-dim, CD20  

and CD23 and - for CD10 and FCM7).  
2. Hypertension  
3. Hyperlipidemia  
4. Cataract surgery  
5. CAD s/p CABG in ___  
6. Sciatica s/p L4-L5 laminectomy  
7. Cholecystitis s/p gallbladder removal (___)  
8. Appendicitis s/p appendectomy (___)  
9. "gynecologic mass" s/p uterine hysterectomy, ovaries still in 
 
tact (___)  
10. Osteoarthritis s/p bilateral total knee replacement.  
11. Community Acquired Pneumonia (___) c/b Cdiff  
(___)  
12. Diet controlled diabetes: HbA1c 6.3  

 
Social History:
___
Family History:
Notable for a mother who died of lung cancer. Father had died of 
 
an MI.  
 
Physical Exam:
Physical exam on admission:
VS: T-98.3 BP-109/73 P-79 RR-16 O2-100% RA  
GENERAL: well appearing elderly woman  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple, no LAD  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and dp  
NEURO: awake, A&O x ___ (person, place, ___, not date), 
able to name president, days of week backwards, CNs II-XII 
grossly intact, muscle strength ___ throughout, sensation 
grossly intact throughout, full ROM of right hip without pain  

Physical Exam Prior to Discharge:
T-98.2, BP-151/68, P-86, RR-18, O2-98%
Gen: well appearing, pleasant, NAD, reports sensorium at 
baseline
HEENT: moist membranes
Cardiac: RRR, NO MRG
Lungs: CTAB, no wheeze or rhonchi or crackles
Abdomen: soft, NT, ND
Extremities: +2 radial and DP pulses, WWP, non-edematous
Neuro: AAOx3, attention good, speech fluent non-pressured, 
sensation grossly intact throughout

 
Pertinent Results:
___ CXR: No acute cardiopulmonary process

___ 06:03PM BLOOD WBC-12.1*# RBC-4.76 Hgb-14.2 Hct-43.1 
MCV-91 MCH-29.9 MCHC-33.0 RDW-14.1 Plt ___
___ 07:20AM BLOOD WBC-12.2* RBC-4.48 Hgb-13.6 Hct-40.3 
MCV-90 MCH-30.4 MCHC-33.9 RDW-14.0 Plt ___

___ 06:03PM BLOOD Glucose-135* UreaN-18 Creat-1.0 Na-138 
K-5.6* Cl-98 HCO3-23 AnGap-23*
___ 07:20AM BLOOD Glucose-129* UreaN-17 Creat-0.9 Na-138 
K-3.7 Cl-103 HCO3-23 AnGap-16

___ 07:20AM BLOOD Calcium-8.3* Phos-3.5 Mg-2.3

___ 06:10PM BLOOD Lactate-2.1* K-4.8

___ 05:52PM URINE RBC-1 WBC-14* Bacteri-FEW Yeast-NONE 
Epi-1
___ 05:52PM URINE Blood-NEG Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.0 Leuks-MOD
___ 05:52PM URINE Color-Straw Appear-Hazy Sp ___

___ URINE URINE CULTURE-PENDING EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

 
Brief Hospital Course:
___ year old female with CLL, HTN and recent bronchitis episode 
with recent high dose steroid taper presents for acute AMS and 
urinary frequency. She was started on IV Ceftriaxone for presume 
urinary tract infection with resolution of her delirium. 

#Delirium.  The patient presented with AMS with confusion and 
weakness per familial report. This comes in the setting of 
potentially inadvertent steroid overdose (80mg ingested as 
opposed to 40mg per PCP prescription for wheezing/bronchitis 
symptoms) as well as probable UTI.  In the hospital she was 
hemodynamically stable with clinical improvement in cognitive 
ability with time progression. She was discontinued from 
steroids and given empiric antibiotic coverage for UTI via 
Ceftriaxone 1gIV. Likewise, as she is on home Gabapentin & 
Dilaudid for Sciatic pain, both medicines were held as an 
inpateint with plans to retart as outpatient. She was evaluated 
by the physical and occupational therapy servcies which 
recommended that she be further managed with home ___ services 
and occupational services as an outpatient.

#UTI: The patient reports symptoms of polyuria and urinary 
frequency per family without blood or pain. She had evidence of 
bacteria, leukocyte esterase and nitrite on Urinalysis in the 
ED. She was started on ceftriaxone 1g IV in the ED. Throughout 
her hopsitalization, she continued to experience polyuria 
without urgency, dysuria or blood. She was prescribed 
Ciprofloxacin for a 2 day course (total of 3 days of 
antibiotics) for presumed uncomplicated urinary tract infection.
--> Need follow up of urine culture 

#HTN: The patient has a history of medically managed 
hypertension for which she was maintained on her home doses of 
Amlodipine 5mg and Atenolol 50mg.

# Hyperlipidemia/CAD: The patient has a history of dyslipidemia 
and coronary artery disease. She was kept on her home aspirin 
regimen of 81mg. She was changed from Simvastatin 40mg to 
Atorvastatin 20 mg due to potential drug-drug interactions with 
amlodipine. She was advised to return to her home regimen of 
Simvastatin 40mg and to follow-up with her PCP for further 
management.

# CLL: The patient was diagnosed in ___ with CLL. As an 
inpatient, it was an inactive issue.

# Sciatica: The patient has history of sciatic pain for which 
she takes Gabapentin and Dilaudid. As an inpatient, those 
medications wer held. She did not expreience a recurrence of her 
pain. She was advised to resume her home regimen for neuropathic 
pain but to monitor her symptoms closely and follow-up with her 
PCP as to the ongoing dose titrations for her analgesia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Calcium Carbonate 500 mg PO QID:PRN indigestion 
4. Atenolol 50 mg PO DAILY 
5. Citalopram 40 mg PO DAILY 
6. Gabapentin 100 mg PO BID 
7. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
8. Meclizine 25 mg PO DAILY:PRN vertigo 
9. Omeprazole 40 mg PO BID 
10. Simvastatin 40 mg PO DAILY 
11. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Calcium Carbonate 500 mg PO QID:PRN indigestion 
5. Citalopram 40 mg PO DAILY 
6. Omeprazole 40 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
9. Simvastatin 40 mg PO DAILY 
10. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
11. Meclizine 25 mg PO DAILY:PRN vertigo 
12. Ciprofloxacin HCl 500 mg PO Q12H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Altered Mental Status
Urinary Tract Infection

Secondary Diagnoses:
Hypertension
Dyslipidemia
Coronary artery disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized for the evaluation of altered mental 
status. It is thought that your confusion is owed to a multitude 
of reasons. The first being your most recent use of high dose 
steroids. You were advised to discontinue your prednisone per 
your primary care doctor's request. 

In the hospital, you were also found to have signs consistent 
with a urinary tract infection. You were started on antibiotic 
medications to treat these signs. It is possible that this 
infection played a role in your confusion and weakness prior to 
coming to the hospital. 

Lastly, from your history of sciatic back and leg pain, we 
discussed the potential role of your home prescriptions for 
Dilaudid (Hydromorphone) and Neurontin (Gabapentin) as 
contributors to your confusion. It is advised that you adhere to 
your PCP's instruction for their continued use but to also 
monitor for potential medication side effects and interactions 
with other drugs.

You were evaluated by the physical therapy and occupational 
therapy services as an inpatient. It has been strongly 
recommended that you begin home occupational therapy with ___ 
services to help optimize the completion of your activites of 
daily living at home.

New Medications: You left the hospital with a prescirption for 
Ciprofloxacin. This antibiotic should be used for only 2 days. 
It is intended to treat your urinary tract infection.
 
Followup Instructions:
___